US06696473B2
A. Preparation of 4-Ethylamino-3-nitroaniline
To a pressure tube was added 4-fluoro-3-nitroaniline (550 mg, 3.50 mmol) and a 2.0 M solution of ethylamine in THF (8 mL). The sealed tube was heated at 120° C. for 24 h. The reaction solution was cooled, diluted with EtOAc (30 mL), washed with satd NaHCO3 (2×25 mL), dried over Na2SO4, and concentrated under reduced pressure to provide the title compound (625 mg, 98%) as a purple solid. 1H-NMR (CDCl3): δ 7.72 (1H, br s), 7.49 (1H, d), 6.96 (1H, dd), 6.74 (1H, d), 3.45 (2H, br s), 3.30 (2H, m), 1.33 (3H, t).

reactant | 4-fluoro-3-nitroaniline | 3.50 mmol, 550 mg | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | ethylamine | C(C)N | C2H7N
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 4-Ethylamino-3-nitroaniline | 625 mg, 98% | C(C)NC1=C(C=C(N)C=C1)[N+](=O)[O-] | C8H11N3O2
